US06958347B2
A solution of 5-ethyl-9-nitro-5H-phenanthridin-6-one (5.4 g, 20 mmol) in ethyl alcohol (400 ml) was charged with 10% palladium on activated carbon (500 mg). The resultant suspension was placed on a Parr hydrogenation apparatus and shaken under 50 psi H2 for 18 hours. The catalyst was removed by filtration, and the filtrate was concentrated in vacuo to afford 9-amino-5-ethyl-5H-phenanthridin-6-one (2.5 g, quantitative).

reactant | 5-ethyl-9-nitro-5H-phenanthridin-6-one | 20 mmol, 5.4 g | C(C)N1C=2C=CC=CC2C2=CC(=CC=C2C1=O)[N+](=O)[O-] | C15H12N2O3
solvent | ethyl alcohol | 400 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 500 mg | [Pd] | Pd
product | 9-amino-5-ethyl-5H-phenanthridin-6-one | 2.5 g | NC1=CC=C2C(N(C=3C=CC=CC3C2=C1)CC)=O | C15H14N2O
